US08664428B2
Methyl 3-bromo-2,6-dimethylphenylacetate
At about 15° C., a solution of 3.67 kg [23 mol] of bromine in 91 of glacial acetic acid is added dropwise to a solution of 3.175 kg [17.82 mol] of methyl 2,6-dimethylphenylacetate in 18 l of glacial acetic acid. The mixture is then stirred at 15° C. for another 2.5 hours, in order to warm to room temperature and stirred at room temperature for 48 hours. The reaction mixture is poured into 170 l of ice-water and extracted twice with in each case 60 l of methylene chloride. After removal of the solvent, 4 kg of a residue remain which, according to GC/MS, comprise 81.2% of methyl 3-bromo-2,6-dimethylphenylacetate (70.9% of theory),

reactant | bromine | 23 mol, 3.67 kg | BrBr | Br2
reactant | methyl 2,6-dimethylphenylacetate | 17.82 mol, 3.175 kg | CC1=C(C(=CC=C1)C)CC(=O)OC | C11H14O2
solvent | acetic acid | 18 l | C(C)(=O)O | C2H4O2
product | Methyl 3-bromo-2,6-dimethylphenylacetate | BrC=1C(=C(C(=CC1)C)CC(=O)OC)C | C11H13BrO2
